US07932251B2
To a solution of 6-(4-(3-hydroxypropoxy)-3-(trifluoromethyl)phenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (670 mg) and DIPEA (1.4 ml) in NMP (7.5 ml) at 0° C. was added methanesulphonyl chloride (0.2 ml). The mixture was allowed to stir for 45 minutes at room temperature, then diluted with EtOAc (75 ml) and washed with saturated sodium bicarbonate (70 ml), followed by water (2×40 ml). Organic layer was dried over sodium sulphate and solvent was evaporated under reduced pressure to yield 3-(4-(4-cyano-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)propyl methanesulfonate (720 mg).

reactant | 6-(4-(3-hydroxypropoxy)-3-(trifluoromethyl)phenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 670 mg | OCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C2OCCCC2)C(F)(F)F | C22H21F3N4O3
reactant | DIPEA | 1.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulphonyl chloride | 0.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | NMP | 7.5 ml | CN1CCCC1=O | C5H9NO
solvent | EtOAc | 75 ml | CCOC(=O)C | C4H8O2
product | 3-(4-(4-cyano-1-(tetrahydro-2H-pyran-2-yl)-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)propyl methanesulfonate | 720 mg | CS(=O)(=O)OCCCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C2OCCCC2)C(F)(F)F | C23H23F3N4O5S
